### PR TITLE
feat(Order): Eta set order embedding theorem

### PR DESCRIPTION
**Pull request by YanYablonovskiy**
Adding a generalised form of the theorem 
"Any linear ordered set with cardinality ≤ ℵ_ α can be embedded in any η_α set"  
taken from _Die Hausdorffsche Theorie der η_α -Mengen und ihre Wirkungsgeschichte_ by U. Felgner and appearing in the 1924 book by Felix Hausdorff „_Grundzüge der Mengenlehre_“ (pp.645-674).

This is a **GIP** ( Golf in progress, but help appreciated).

### CODE REVIEW

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 1]
```diff
@@ -96,6 +96,128 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
 
 theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
 
+section
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Since everything is private, can we just make this a `private section` instead?

Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: I though so too and that it should be that simple , but bizarrely when i tried it , `private` seemed to complain it does not expect a section with 
```unexpected token 'section'; expected 'lemma'```

Comment (plp127) [reply CombinatorialGames/Mathlib/EtaSet.lean]: oh interesting! maybe instead you can `end` the `public section` started at the very top of the file

Comment (vihdzp) [reply CombinatorialGames/Mathlib/EtaSet.lean]: Yeah, Lean theorems are private by default, unless they are in a public section.

Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: Tried to change it accordingly, you can't really close the section without the namespaces since they appear to be nested.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 2]
```diff
@@ -98,4 +98,131 @@ theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
...
+public theorem OrderType.type_le_type_of_isEta {α β : Type u} [LinearOrder α] [LinearOrder β]
+    (h : IsEta #α β) : type α ≤ type β := by
+  rcases Cardinal.exists_ord_eq α with ⟨r, hr, hord⟩
+  rw [type_le_type_iff]
+  by_cases hα : Nonempty α
+  · exact ⟨(OrderEmbedding.ofStrictMono (h.f hord)
+      (strictMono_f (h:=h) r))⟩
+  · push Not at hα
+    use @OrderEmbedding.ofIsEmpty α β _ _ _ |>.toEmbedding
+    simp
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
  cases isEmpty_or_nonempty α with
  | inl => exact ⟨.ofIsEmpty⟩
  | inr => exact ⟨.ofStrictMono (h.f hord) (strictMono_f r)⟩
```

**Review by vihdzp — COMMENTED** [review]
I think there's an important result missing:
```lean 4
theorem OrderType.type_eq_type_of_isEta {α β : Type u} [LinearOrder α] [LinearOrder β]
    (hα : IsEta #α α) (hβ : IsEta #β β) (heq : #α = #β) : type α = type β :=
  sorry
```
It should be possible to prove this using almost the same code. You'll just have to ensure that in the case that `α` and `β` have the same cardinal, `IsEta.f` is in fact a bijection. 

For this, you can take a well-ordering of `β`, and instead of using `Exists.choose` to choose an arbitrary element in the corresponding interval, you can choose the least one under this well-ordering.

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Mathlib/EtaSet.lean]: then, how about reordering the `public section` so it is inside the namespaces

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 3]
```diff
@@ -98,4 +98,131 @@ theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
...
+    [hr : IsWellOrder α r] {h : IsEta #α β} {hord : (#α).ord = Ordinal.type r} :
+    let f := h.f hord
+    ∀ (a : α) (hsep : ∀ x ∈ lo (r:=r) a fun y _ ↦ f y, ∀ y ∈ hi a fun y _ ↦ f y, x < y),
+    ∀ y ∈ hi (r:= r) a fun y _ ↦ f y, (exists_between h (hlo_card hord a fun y _ ↦ f y)
+    (hhi_card hord a fun y _ ↦ f y) hsep).choose < y  :=
+  let f := h.f hord
+  fun a hsep ↦ (h.exists_between (hlo_card hord a (fun y _ ↦ f y))
+  (hhi_card hord a (fun y _ ↦ f y)) hsep).choose_spec.2
+
+theorem f_aux₁ {α β : Type u} (r : α → α → Prop) [Nonempty α] [LinearOrder α]
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Can we not have public theorems called `f_aux₁`? If it's an auxiliary theorem, it should be private.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 4]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+/-- The function which will be shown to be either just an order embedding,
+or potentially an order isomorphism if the cardinalities of β and α are equal. -/
+@[reducible]
+private noncomputable def f [Nonempty α] (h : IsEta #α β) (hord : (#α).ord = Ordinal.type r)
+    (s : β → β → Prop) [hs : IsWellOrder β s] : α → β :=
+  hr.wf.fix fun a g ↦
+    if hsep : ∀ x ∈ lo a g, ∀ y ∈ hi a g, x < y then
+      hs.wf.min {z | (∀ x ∈ lo a g, x < z) ∧ ∀ y ∈ hi a g, z < y}
+        (h.exists_between (mk_lo_lt hord a g) (mk_hi_lt hord a g) hsep)
+    else (h.nonempty <| mk_ne_zero α).some
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: You don't need the `Nonempty α` argument, since in this function you're already given a value `a : α`. That is, you can write:
```suggestion
    else (h.nonempty <| have : Nonempty α := ⟨a⟩; mk_ne_zero α).some
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 5]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+    {z | (∀ x ∈ lo a fun y (_ : r y a) ↦ h.f hord s y, x < z) ∧
+      ∀ y ∈ hi a fun y (_ : r y a) ↦ h.f hord s y, z < y} _
+
+private theorem f_sep (a : α) :
+    ∀ x ∈ lo a fun y (_ : r y a) ↦ h.f hord s y,
+      ∀ y ∈ hi a fun y (_ : r y a) ↦ h.f hord s y, x < y := by
+  induction a using hr.wf.induction with
+  | h a IH =>
+    rintro _ ⟨⟨x, hrx, hxa⟩, rfl⟩ _ ⟨⟨y, hry, hay⟩, rfl⟩
+    change h.f hord s x < h.f hord s y
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: You can omit this line, but it does make the proof a bit less readable. Alternatively, you can replace this by a `dsimp` call. Up to you; same goes elsewhere.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 6]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+    have hxy := hxa.trans hay
+    rcases trichotomous_of r x y with hrxy | rfl | hryx
+    --repetitive, single grind almost works except the .1 amd .2 and providing the arguments somehow
+    · exact (f_mem y (IH y hry)).1 _ ⟨⟨x, hrxy, hxy⟩, rfl⟩
+    · exact hxy.false.elim
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: One of my favorite facts about type theory: exfalso is just a proof by cases (where there are zero cases!). Same suggestion applies elsewhere.
```suggestion
    · cases hxy.false
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 7]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
 
 theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
 
+section
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:113]: Can you give a more descriptive name to this section? Maybe something like `BackAndForth`, just to make explicit what's going on here.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 8]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+omit [LinearOrder β] in
+private theorem mk_hi_lt (hord : (#α).ord = Ordinal.type r) (a : α) (g : ∀ y, r y a → β) :
+    #(hi a g) < #α :=
+  mk_range_le.trans_lt <| (mk_subtype_le_of_subset fun _ hx ↦ hx.1).trans_lt <|
+    card_subtype_lt hord a
+
+open Classical in
+/-- The function which will be shown to be either just an order embedding,
+or potentially an order isomorphism if the cardinalities of β and α are equal. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:144]: I think this could benefit for a more descriptive docstring, which explains that `f a` is defined inductively (via the well-ordering `r`) as the least element (with respect to the well-ordering `s`) which is correctly ordered with respect to the previously defined values of the function.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 9]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+public theorem OrderType.type_le_type_of_isEta {α β : Type u} [LinearOrder α] [LinearOrder β]
+    (h : IsEta #α β) : type α ≤ type β := by
+  cases isEmpty_or_nonempty α with
+  | inl _ => exact type_le_type_iff.2 ⟨.ofIsEmpty⟩
+  | inr _ =>
+    obtain ⟨r, hr, hord⟩ := Cardinal.exists_ord_eq α
+    obtain ⟨s, hs, -⟩ := Cardinal.exists_ord_eq β
+    exact type_le_type_iff.2 ⟨.ofStrictMono _ (strictMono_f (h := h) (hord := hord) (s := s))⟩
+
+/-- Any two `η_o₁` and  `η_o₂` ordered sets are order-isomorphic if `o₁ = o₂`. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
/-- Any two `η_c` ordered sets of cardinal `c` are order-isomorphic. -/
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 10]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+  --couldnt get grind to play nice here either, even though its so repetitive
+  · exact (hlo₀ a₀ ⟨hfa₀, h'⟩).false
+  · exact (hhi₀ a₀ ⟨hfa₀, h'⟩).false
+
+end
+
 end IsEta
 
+open IsEta OrderType
+/-- Existence of `η_|o|` ordered sets implies an order embedding between `o` and said eta order. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
/-- If `β` is an `η_c` set, any linear order of cardinal `c` embeds into it.  -/
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 11]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
 
 theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
 
+section
+
+variable {r : α → α → Prop}
+
+/-- The image under `g` of the `r`-predecessors of `a` lying below `a`. -/
+@[reducible]
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This seems unused, same for `hi`.

**Review by vihdzp — COMMENTED** [review]
Nice job! I couldn't really improve on the proof method, nor do any substantial golfs. All of this is just nitpicks; this can largely be merged as-is.

**Comment by vihdzp** [comment]
Deactivated user on Zulip... I'll implement the suggestions and merge myself.

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 11 above)
Comment (vihdzp) [reply CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 12]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+private def lo (a : α) (g : ∀ y, r y a → β) : Set β :=
+  Set.range fun x : {x : α // r x a ∧ x < a} ↦ g x.1 x.2.1
+
+/-- The image under `g` of the `r`-predecessors of `a` lying above `a`. -/
+@[reducible]
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 13]
```diff
@@ -109,6 +109,169 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+    rcases trichotomous_of r x y with hrxy | rfl | hryx
+    --repetitive, single grind almost works except the .1 amd .2 and providing the arguments somehow
+    · exact (f_mem y (IH y hry)).1 _ ⟨⟨x, hrxy, hxy⟩, rfl⟩
+    · exact hxy.false.elim
+    · exact (f_mem x (IH x hrx)).2 _ ⟨⟨y, hryx, hxy⟩, rfl⟩
+
+private theorem strictMono_f : StrictMono (h.f hord s) := fun x y hxy ↦ by
+  rcases trichotomous_of r x y with hrxy | rfl | hryx
+  · exact (f_mem y (f_sep y)).1 _ ⟨⟨x, hrxy, hxy⟩, rfl⟩
+  · exact hxy.false.elim
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
  · cases hxy.false
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 14]
```diff
@@ -109,6 +109,167 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
 
 theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
 
+section
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
section BackAndForth
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 15]
```diff
@@ -109,6 +109,167 @@ protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMi
...
+    · exact absurd (hwy.trans_lt (hlo₀ w hw)) hay.asymm
+    · exact hw.2.trans_le (hmono.monotone hwy)
+  have hfa₀ : s (h.f hord s a₀) b := (trichotomous_of s _ b).resolve_right <|
+    not_or.2 ⟨hb a₀, not_lt_f a₀ ⟨hcand₁, hcand₂⟩⟩
+  rcases lt_or_gt_of_ne (hb a₀) with h' | h'
+  --couldnt get grind to play nice here either, even though its so repetitive
+  · exact (hlo₀ a₀ ⟨hfa₀, h'⟩).false
+  · exact (hhi₀ a₀ ⟨hfa₀, h'⟩).false
+
+end
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
end BackAndForth
```

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 5 above)
Comment (vihdzp) [reply CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
    dsimp
```
